US08912188B2
To a solution of methyl 3-chloro-7-fluoro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (2.0 g, crude) in DMSO (20 ml) was added DIEA (2.0 g, 15.48 mmol) and methyl(propan-2-yl)amine (790 mg, 10.80 mmol) with stirring at 85° C. overnight. The reaction mixture was cooled to room temperature. The product was precipitated by the addition water and the solids were collected by filtration to afford methyl 7-fluoro-3-[methyl(propan-2-yl)amino]-2-oxo-1,2-dihydroquinoxaline-6-carboxylate as a light yellow solid (800 mg).

reactant | methyl 3-chloro-7-fluoro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 2.0 g | ClC=1C(NC2=CC(=C(C=C2N1)C(=O)OC)F)=O | C10H6ClFN2O3
reactant | DIEA | 15.48 mmol, 2.0 g | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl(propan-2-yl)amine | 10.80 mmol, 790 mg | CNC(C)C | C4H11N
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | methyl 7-fluoro-3-[methyl(propan-2-yl)amino]-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 800 mg | FC1=C(C=C2N=C(C(NC2=C1)=O)N(C(C)C)C)C(=O)OC | C14H16FN3O3
